US08048909B2
5-Phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde
Using 4-trifluoromethylbenzenesulfonyl chloride instead of tosyl chloride, a procedure as in Reference Example 4 was performed to synthesize ethyl 5-phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carboxylate, and procedures as in Reference Examples 5 and 6 were sequentially performed to give the title compound as a colorless solid.

reactant | 4-trifluoromethylbenzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | ethyl 5-phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carboxylate | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C20H16F3NO4S
product | 5-Phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C=O | C18H12F3NO3S
